US06143907
A 5 L three-necked flask equipped with air driven stirrer and nitrogen take-off adapter was charged with (S)-3-(1,3-Benzodioxol-5-yl)-2,3-dihydro-6-propoxy-1H-inden-1-one (150 g, 0.483 mol, 90.4% e.e.) and dimethyl carbonate (1.5 L). At 20° C., add sodium t-amylate (64 g, 0.580 mol) portionwise (4×16 g) while maintaining the temperature below 35° C. Upon complete addition of base, stir the solution until the temperature drops to 20° C. (~1.5 h). Cool the solution to 0° C. and add a 50% acetic acid solution (300 mL) over 15 minutes to keep the temperature below 5° C. Concentrate the solution to a minimum stir volume, add toluene (1.5 L) and wash with water (2×500 mL). Concentrate the organic phase to a minimum stir volume and perform a toluene azeotrope (3×1 L) to remove residual H2O. Charge additional toluene to a 1.5 L volume and add 60% NaH (29 g, 0.725 mol) at 10° C. over 0.5 h. Warm the mixture to 40° C. for 1 h, then cool the solution to 0° C. and add disulfuryl fluoride (52 mL, 0.483 mol) over 15 minutes while maintaining the temperature below 10° C. Stir the reaction mixture at room temperature for 1.5 h and cool to 0° C. Add H2O (150 mL) dropwise to keep the temperature below 5° C. followed by the addition of glacial acetic acid (150 mL). Warm to room temperature and add THF (3 L) and H2O (300 mL). Separate the two phases, wash the organic phase with H2O (2×300 mL) and concentrate to a thick slurry. Add iPr2O (1 L) and with vigorous stirring cool the slurry to -15° C. After 1 h, filter the slurry and wash the filter cake with cold iPr2O (-15° C., 1 L). Dry the product to a constant weight to afford (S)-Methyl-1-(1,3-benzodioxol-5-yl)-3-[(fluorosulfonyl)oxy]5-propoxy-1H-indene-2-carboxylate as a pale white solid (126 g, 58%, 94.3% e.e.): mp 161.0-162.0° C.; Chiralpak AD column (93:7 IPA/hexane, 1 mL/min, 254 nm, 7.05 min: 0.35%, 9.41 min: 12.31%).

reactant | (S)-3-(1,3-Benzodioxol-5-yl)-2,3-dihydro-6-propoxy-1H-inden-1-one | 0.483 mol, 150 g | O1COC2=C1C=CC(=C2)[C@@H]2CC(C1=CC(=CC=C21)OCCC)=O | C19H18O4
reactant | dimethyl carbonate | 1.5 L | C(OC)(OC)=O | C3H6O3
reactant | NaH | 0.725 mol, 29 g | [H-].[Na+]
reactant | disulfuryl fluoride | 0.483 mol, 52 mL | O=S(=O)(OS(=O)(=O)F)F | F2O5S2
solvent | H2O | 300 mL | O | H2O
solvent | THF | 3 L | C1CCOC1 | C4H8O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 150 mL | O | H2O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | (S)-Methyl-1-(1,3-benzodioxol-5-yl)-3-[(fluorosulfonyl)oxy]5-propoxy-1H-indene-2-carboxylate | COC(=O)C=1[C@H](C2=CC=C(C=C2C1OS(=O)(=O)F)OCCC)C1=CC2=C(OCO2)C=C1 | C21H19FO8S
